Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.80080947625
[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5](=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[C:12]([H:13])([H:14])[H:15],1.9672004345
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],1.88877034253
[O:1]=[C:2]1[C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2][C:9]([C:7](=[C:6]=[C:3]([H:4])[H:5])[H:8])([H:10])[H:11],0.58454631548
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[O:10][H:11]>>[C:7](#[C:8][H:9])[O:10][H:11].[H:1][C:2][O:3][C:4]([H:5])[H:6],1.58958210727
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10].[O:1]=[C:2][H:3],3.17666863752
[C:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11].[H:4]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11],-1.7430320757599995
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8].[O:9][H:10],6.8063832773399975
[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[O:10][H:11],2.22253817479
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:1],3.95465879101
[C:1]([H:4])(=[C:5]([H:6])[H:7])[H:10].[C:2](#[C:3])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.5313117502310001
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[C:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],3.88569255754
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1],7.74576294994
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]#[C:8][H:9]>>[H:1][O:2][C:3]([H:4])[C@:5]12[O:6][C:7]1[C:8]2[H:9],-0.73363940636
[H:1].[O:2]=[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.980305915697
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:12][H:13],2.75203949766
[H:15].[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.539921510369999
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:1].[O:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],1.3630648127
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.71784285886
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7].[C:8]([H:9])([H:10])[H:11],2.91602242959
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],3.79287430847
[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.87212101082
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11],2.8816731301800003
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3][C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:4],2.01311808527
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10],3.73490953809
[H:1][O:2]/[C:3]=[C:4](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2][C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.89781842706
[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[H:1][O:2][O:3],2.44252720753
[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],2.05656589305
